US07495104B2
1-(3,3-Dimethyl-butyl)-3-{2-fluoro-4-[6-methoxy-7-(2-piperidin-1-yl-ethoxy)-quinolin-4-yloxy]-phenyl}-urea hydrochloride
Methanol (20 ml) and chloroform (2 ml) were added to 1-(3,3-dimethyl-butyl)-3-{2-fluoro-4-[6-methoxy-7-(2-piperidin-1-yl-ethoxy)-quinolin-4-yloxy]-phenyl}-urea to prepare a solution. Hydrogen chloride-methanol was added to the solution, and the mixture was acidified and was concentrated. Diethyl ether was added to the residue, and mixture was filtrated to give the title compound (1.75 g, yield 91%).

reactant | Methanol | 20 ml | CO | CH4O
reactant | 1-(3,3-dimethyl-butyl)-3-{2-fluoro-4-[6-methoxy-7-(2-piperidin-1-yl-ethoxy)-quinolin-4-yloxy]-phenyl}-urea | CC(CCNC(=O)NC1=C(C=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OCCN1CCCCC1)F)(C)C | C30H39FN4O4
reactant | Hydrogen chloride methanol | Cl.CO
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(3,3-Dimethyl-butyl)-3-{2-fluoro-4-[6-methoxy-7-(2-piperidin-1-yl-ethoxy)-quinolin-4-yloxy]-phenyl}-urea hydrochloride | 1.75 g, yield 91% | Cl.CC(CCNC(=O)NC1=C(C=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OCCN1CCCCC1)F)(C)C | InChI=1S/C30H39FN4O4.ClH/c1-30(2,3)11-13-33-29(36)34-24-9-8-21(18-23(24)31)39-26-10-12-32-25-20-28(27(37-4)19-22(25)26)38-17-16-35-14-6-5-7-15-35;/h8-10,12,18-20H,5-7,11,13-17H2,1-4H3,(H2,33,34,36);1H
